US03954733
4-Hydroxy-1,5-naphthyridine-3-carboxylic acid was added to a mixture of benzene, 0.73 g of dimethylformamide and 1.56 g of thionyl chloride, and the resulting mixture was stirred at 40 to 85°C for 3 hours. The precipitated crystals were collected by filtration, washed with benzene and dried under reduced pressure to give 2.37 g of 4-hydroxyl-1,5-naphthyridine-3-carbonyl chloride hydrochloride as crystals. Purity (determined by NMR analysis as the ester from obtained by further alcoholysis), 96.3 %.

reactant | 4-Hydroxy-1,5-naphthyridine-3-carboxylic acid | OC1=C(C=NC2=CC=CN=C12)C(=O)O | C9H6N2O3
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 1.56 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.73 g | CN(C=O)C | C3H7NO
product | 4-hydroxyl-1,5-naphthyridine-3-carbonyl chloride hydrochloride | 2.37 g | Cl.OC1=C(C=NC2=CC=CN=C12)C(=O)Cl | InChI=1S/C9H5ClN2O2.ClH/c10-9(14)5-4-12-6-2-1-3-11-7(6)8(5)13;/h1-4H,(H,12,13);1H
